US06200999B1
Benzyl (RS)-2-Amino-3-(5-benzyloxycarbonyl-3-ethoxyisoxazol-4-yl)propionate Hydrochloride (Comp. 14)
A mixture of benzyl (RS)-2-[(tert-butoxycarbonyl)amino]-3-(5-benzyloxycarbonyl-3-ethoxyisoxazol-4-yl)propionate (1.9 g, 3.6 mmol) and a saturated solution of HCl in dietyl ether (40 mL) was boiled under reflux for 2 h. The formed crystals were collected by filtration, stirred with ethyl acetate, and collected by filtration (0.53 g, 32%): mp 142-144° C.; 1H NMR (DMSO-d6) δ1.32 (t, 3 H), 3.17 (dd, 1 H), 3.25 (dd, 1 H), 4.17-4.32 (m, 3 H), 5.09 (dd, 2 H), 5.39 (s, 2 H), 7.24-7.53 (m, 10 H); MS ((M+H)+) m/z 425. Anal. calcd, C, 59.93; H, 5.48; N, 6.08; found, C, 59.70; H, 5.49; N, 6.26.

reactant | benzyl (RS)-2-[(tert-butoxycarbonyl)amino]-3-(5-benzyloxycarbonyl-3-ethoxyisoxazol-4-yl)propionate | 3.6 mmol, 1.9 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)CC=1C(=NOC1C(=O)OCC1=CC=CC=C1)OCC | C28H32N2O8
reactant | HCl | Cl | ClH
solvent | dietyl ether | 40 mL | C(C)OCC | C4H10O
product | Benzyl (RS)-2-Amino-3-(5-benzyloxycarbonyl-3-ethoxyisoxazol-4-yl)propionate Hydrochloride | Cl.NC(C(=O)OCC1=CC=CC=C1)CC=1C(=NOC1C(=O)OCC1=CC=CC=C1)OCC | InChI=1S/C23H24N2O6.ClH/c1-2-28-21-18(13-19(24)22(26)29-14-16-9-5-3-6-10-16)20(31-25-21)23(27)30-15-17-11-7-4-8-12-17;/h3-12,19H,2,13-15,24H2,1H3;1H
